US04861798
9(4-Butoxyphenyl)nonanoic acid
A mixture of 7 gms 9(4-hydroxyphenyl)nonanoic acid, methyl ester, 1.45 gms KOH, 100 ml dry dimethoxyethane, and 3.6 gms 1-bromobutane was refluxed with stirring for 24 hrs. The reaction was cooled, filtered through diatomaceous earth, and the solvent was removed in vacuo. The residue was dissolved in CHCl3, washed twice with 5% Na2CO3, twice with water and once with NaCl solution, and dried over MgSO4. The drying agent was filtered off and the solvent removed in vacuo to give an oil. This oil was stirred overnight at room temperature in a mixture of 70 ml ethanol and 30 ml 10% KOH solution. The solvent was then evaporated in vacuo, the residue dissolved in hot water, cooled, acidified, and the precipitated solid filtered off. The solid was boiled with hexane, filtered, and the solid boiled with cyclohexane and filtered. The insoluble material was again dissolved in water, the aqueous phase acidified with HCl, and the resulting solid was boiled with hexane and filtered. All hexane and cyclohexane solutions were combined and evaporated in vacuo to give 3.5 gms of solid m.p. 45°-8°, which was used directly in the next step.

reactant | 9(4-hydroxyphenyl)nonanoic acid, methyl ester | 7 gms | OC1=CC=C(C=C1)CCCCCCCCC(=O)OC | C16H24O3
reactant | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
reactant | 1-bromobutane | 3.6 gms | BrCCCC | C4H9Br
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | KOH | 30 ml | [OH-].[K+]
solvent | KOH | 1.45 gms | [OH-].[K+]
product | 9(4-Butoxyphenyl)nonanoic acid | 3.5 gms | C(CCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)O | C19H30O3
